US07575737B1
Trimethylbutylammonium Silicate Solution
Trimethylbutylammonium hydroxide, (25.66%), 366.4 g, was diluted with 564.8 g deionized water and to it there were added 500.0 g of tetraethylorthosilicate, (98%) with stirring. After hydrolysis was complete, the solution was placed on a rotary evaporator to remove the alcohol. Elemental analysis showed the solution to contain 7.04 wt % Si.

reactant | Trimethylbutylammonium hydroxide | [OH-].C[N+](CCCC)(C)C
reactant | tetraethylorthosilicate | 500.0 g | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
solvent | water | O | H2O
product | Trimethylbutylammonium Silicate | [Si]([O-])([O-])([O-])[O-].C[N+](CCCC)(C)C.C[N+](C)(C)CCCC.C[N+](C)(C)CCCC.C[N+](C)(C)CCCC | InChI=1S/4C7H18N.O4Si/c4*1-5-6-7-8(2,3)4;1-5(2,3)4/h4*5-7H2,1-4H3;/q4*+1;-4
